*
* AC to DC
*

* forces current values to be saved
.options savecurrents

******************************************
* input voltage source
vS 22 GND 0 sin(0 230 50)
RS 22 23 2000M
F1 GND 23 E1 0.73896


E1 1 3 23 GND 0.73896


D1 1 2 Default
D2 3 2 Default
D3 GND 1 Default
D4 GND 3 Default
*D6 4 5 Default
*D7 5 6 Default
*D8 6 7 Default
*D9 7 8 Default
*D10 8 9 Default
*D11 9 10 Default
*D12 10 11 Default
*D13 11 12 Default
*D14 12 13 Default
*D15 13 14 Default
*D16 14 15 Default
*D17 15 16 Default
*D18 16 17 Default
*D19 17 18 Default
*D20 18 19 Default
*D21 19 20 Default
*D22 20 21 Default
*D23 21 GND Default




R1 2 GND 300k
C1 2 GND 150u
*R3 2 4 100k


.model Default D
.op
.end

.control


*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0
******************************************
* analise no tempo
tran 1e-5 240e-3
* tran 1e-5 10e-3

plot   v(2) 

******************************************
hardcopy envelope.ps  v(2) 
echo envelope_FIG
* hardcopy vospice400.ps  v(4)

.endc
